US08614327B2
To a solution of (S)-(4,4-difluoro-1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidin-2-yl)methanol (275 mg, 0.84 mmol) in anhydrous DCM was added triethylamine (171 mg, 235 μL, 1.7 mmol) followed by methane sulfonyl chloride (106 mg, 72 μL, 0.93 mmol) at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for 1 h. The reaction was diluted with DCM and quenched with 3 mL saturated NaHCO3. The organic layer was separated and washed with brine, dried over Na2SO4, filtered, and concentrated to obtain (S)-(4,4-difluoro-1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidin-2-yl)methyl methanesulfonate as a yellow solid (330 mg, 96%). LC/MS: m/z 405 (M+H)+ at 1.71 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | (S)-(4,4-difluoro-1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidin-2-yl)methanol | 0.84 mmol, 275 mg | FC1(C[C@H](N(C1)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F)CO)F | C12H11F5N2O3
reactant | triethylamine | 1.7 mmol, 235 μL, 171 mg | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 0.93 mmol, 72 μL, 106 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-(4,4-difluoro-1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidin-2-yl)methyl methanesulfonate | 330 mg, 96% | CS(=O)(=O)OC[C@H]1N(CC(C1)(F)F)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C13H13F5N2O5S
